US09227978B2
2-(4-chloropyridin-2-yloxy)-4,5-dichlorobenzenamine
To a solution of 2-amino-4,5-dichlorophenol (1.5 g, 8.47 mmol) in THF (20 mL) at 0° C., NaH (60% dispersed in oil, 373 mg, 9.33 mmol) was added and the resulting mixture was stirred for 20 min. To this mixture, 4-chloro-2-fluoropyridine (1.67 g, 12.7 mmol) was added and the resulting mixture was stirred at reflux under argon for 15 h. The mixture was allowed to cool to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1 to 10:1) to afford the desired product (1.1 g, 45% yield). ESI-MS m/z: 287.0 [M−H]−.

reactant | 2-amino-4,5-dichlorophenol | 8.47 mmol, 1.5 g | NC1=C(C=C(C(=C1)Cl)Cl)O | C6H5Cl2NO
reactant | NaH | 9.33 mmol, 373 mg | [H-].[Na+]
reactant | 4-chloro-2-fluoropyridine | 12.7 mmol, 1.67 g | ClC1=CC(=NC=C1)F | C5H3ClFN
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-chloropyridin-2-yloxy)-4,5-dichlorobenzenamine | 1.1 g, 45% yield | ClC1=CC(=NC=C1)OC1=C(C=C(C(=C1)Cl)Cl)N | C11H7Cl3N2O
